US05420115
2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-6-propoxy-9H-purine
2-Amino-6-propoxypurine (0.3 g, 1.6 mmoles) which may be prepared according to R. W. Balsiger and J. A. Montgomery (J. Org. Chem. 25:1573, 1960) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.52 g, 2.1 mmoles) which may be prepared according to J. F. Codington et al. (J. Org. Chem. 29:558, 1964) were suspended in 50 ml of 2 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. The pH of the suspension was adjusted to 7.0 with KOH. Thymidine phosphorylase (4,000 I.U.) and purine nucleoside phosphorylase (14,000 I.U.) (T. A. Krenitsky et al., Biochemistry 20:3615, 1981 and U.S. Pat. No. 4,381,344) were added and the reaction stirred at 37° C. On day 6, the reaction was diluted to 250 ml with 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide, and 4,000 I.U. of thymidine phosphorylase and 14,000 I.U. of purine nucleoside phosphorylase were added. On day 14, the solvent was removed under vacuum. The residue was suspended in methanol/water and the suspension was filtered. The filtrate was evaporated. The residue was dissolved in hot water and applied to a 2.5×13 cm column of anion exchange resin (Bio-Rad AG1X2 hydroxide form). After washing the column with water, the product was eluted with methanol/water (1/1). Product-containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in water and lyophilized to obtain title compound that analyzed as 0.9 hydrate.

reactant | 2-Amino-6-propoxypurine | 1.6 mmoles, 0.3 g | NC1=NC(=C2NC=NC2=N1)OCCC | C8H11N5O
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 2.1 mmoles, 0.52 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | KOH | [OH-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 2 mM, 50 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 5 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-6-propoxy-9H-purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F)OCCC | C13H18FN5O4
